US08754085B2
Step 1: Pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione
A stirred suspension of 2,3-diaminopyridine (75 g, 687 mmol) in diethyl oxalate (291 ml, 2131 mmol) under N2 was heated to 120° C. After 1 h, the ethanol was distilled off the reaction mixture and the temperature was elevated to 160° C. for a further 2 hours. The reaction mixture was allowed to cool to RT and diluted with diethyl ether (200 ml). The resulting suspension was stirred for 1 hour and the solid was isolated by filtration and dried in a vacuum oven. The solid was suspended in ethanol (500 ml) and sonicated for 1 hour. The suspension was filtered and dried (vacuum oven overnight) to afford the title compound;

reactant | 2,3-diaminopyridine | 687 mmol, 75 g | NC1=NC=CC=C1N | C5H7N3
reactant | diethyl oxalate | 2131 mmol, 291 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione | N1C2=C(NC(C1=O)=O)N=CC=C2 | C7H5N3O2
